US04550190
A mixture of 1.8 g of 4-[[8-acetyl-7-(3-bromopropoxy)-2-naphthlenyl]oxy]butanoic acid methyl ester, 1 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone and 0.9 g of anhydrous potassium carbonate in 30 ml of anhydrous acetone and 6 ml of anhydrous dimethylformamide was stirred at reflux for 15 hours. The mixture was filtered and the filtrate was concentrated in vacuo to an oil which was dissolved in ethylacetate and washed with water, 1N sodium hydroxide solution and sodium chloride solution. The oil resulting from the ethyl acetate extract was purified by flash column chromotography to yield 1.44 g (63%) of 4-[[8-Acetyl-7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]butanoic acid methyl ester as an oil.

reactant | 4-[[8-acetyl-7-(3-bromopropoxy)-2-naphthlenyl]oxy]butanoic acid methyl ester | 1.8 g | COC(CCCOC1=CC2=C(C(=CC=C2C=C1)OCCCBr)C(C)=O)=O | C20H23BrO5
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 1 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-[[8-Acetyl-7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]butanoic acid methyl ester | 1.44 g, 63% | COC(CCCOC1=CC2=C(C(=CC=C2C=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C31H36O8
